US06660529B2
2-Methoxy-4,6-dibromophenylisothiocyanate
In a flask under argon were placed 19.75 grams of 4,6-dibromo-o-anisidine (70 mmol) and 20 grams of solid bicarbonate. A large, heavy-duty magnetic stir bar was added, followed by 120 ml acetonitrile and 50 ml dichloromethane. The suspension was stirred at 0° C. as 6.0 ml of thiophosgene was added rapidly by syringe. A thick precipitate developed immediately. This was stirred vigorously as the contents of the flask were slowly warmed to room temperature. The carbon dioxide generated was led to a bubbler with a needle vent. The mixture thinned slightly as it warmed and was more easily stirred. Vigorous stirring was continued for two hours. The suspension was then recooled to 0° C. The solid was filtered off on a Buchner funnel, rinsing the flask and transferring any remaining solid with 30 ml of cold acetonitrile. The filtrate was rotary evaporated to a solid containing areas of orange discoloration. This solid was triturated with hexanes, pumped dry, and transferred to the Buchner funnel containing the white, original filter cake. This solid was washed with 5×100 ml portions of a 0.5 M aqueous solution of NaH2PO4 in order to neutralize the inorganic bicarbonate present (carbon dioxide was released). The solid was broken up during each rinse. The white product was then washed liberally with water and dried in vacuo. The dry product weighed 21.8 grams. Analytical data obtained from a similarly synthesized product were in agreement with the above-titled structure. NMR(300 MHz/CDCl3) data was: δ 3.92(s, 3H), 6.98(d, 1H), 7.31 (d, 1H). IR(CH2Cl2/cm−1) data was: 3020, 2970, 2940, 2030(br), 1575, 1555, 1470, 1400, 1040, 935, 870, 840.

reactant | 4,6-dibromo-o-anisidine | 70 mmol, 19.75 grams | BrC=1C=C(C(OC)=C(C1)Br)N | C7H7Br2NO
reactant | bicarbonate | C([O-])(O)=O
reactant | thiophosgene | 6.0 ml | C(=S)(Cl)Cl | CCl2S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Methoxy-4,6-dibromophenylisothiocyanate | COC1=C(C(=CC(=C1)Br)Br)N=C=S | C8H5Br2NOS
